US08383621B2
Step 4: 4-(4-Ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoic acid
An aqueous solution of NaOH 6N (70 mL, 420 mmol) was added to a solution of 4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzonitrile (which may be prepared in accordance with the experimental described in Example 4, step 3; 4.0 g, 13.82 mmol) in methanol (140 mL). The reaction mixture was then stirred at reflux (80° C.) overnight. After cooling to 0° C., the reaction mixture was acidified by slow addition of concentrated HCl (25 mL) until pH=2. The mixture was then diluted by addition of ethyl acetate (300 mL) and the aqueous layer was separated and extracted with ethyl acetate (2×200 mL). The combined organic phases were dried over sodium sulfate, filtered and concentrated under vacuum to afford the title product as a beige solid (4.20 g, quantitative).

reactant | NaOH | 420 mmol, 6N, 70 mL | [OH-].[Na+]
reactant | 4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzonitrile | C(C)C1=CC(=C(OC2=C(C=C(C#N)C=C2)F)C=C1F)OC | C16H13F2NO2
reactant | HCl | 25 mL | Cl | ClH
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
reactant | methanol | 140 mL | CO | CH4O
product | 4-(4-Ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoic acid | 4.20 g | C(C)C1=CC(=C(OC2=C(C=C(C(=O)O)C=C2)F)C=C1F)OC | C16H14F2O4
